US04293435
4.2. Preparation of 4-(6-hydroxyhexoxy)-4'-(2-methylbutoxy)-biphenyl
4.5 g of KOH and 15 g of 4-hydroxy-4'-(2-methylbutoxy)-biphenyl are dissolved in 150 ml of a 1:1 water/ethanol mixture, the solution is raised to the boil and 9 g of 6-chloro-1-hexanol are slowly added dropwise, whilst stirring, after which the batch is refluxed for about 10 hours. When the reaction solution has cooled, it is acidified with HCl and the product is extracted with CHCl3 in a separating funnel. The CHCl3 is then stripped off and the crude product is recrystallized from ethanol (melting point 118° C.).

reactant | KOH | 4.5 g | [OH-].[K+]
reactant | 4-hydroxy-4'-(2-methylbutoxy)-biphenyl | 15 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)OCC(CC)C | C17H20O2
reactant | 6-chloro-1-hexanol | 9 g | ClCCCCCCO | C6H13ClO
reactant | HCl | Cl | ClH
solvent | water ethanol | 150 ml | O.C(C)O
product | 4-(6-hydroxyhexoxy)-4'-(2-methylbutoxy)-biphenyl | OCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)OCC(CC)C | C23H32O3
